US06528653B2
Ethyl 2-nitrothiophene-3-acetate (4 g, 18.6 mmol) was dissolved in aqueous dioxan (40 ml, 4:1 dioxan/water) and treated with reduced iron powder (3.5 g, 62.7 mmol) and iron sulfate heptahydrate (400 mg, 1.44 mmol). The reaction mixture was heated at reflux for 2 hours then filtered through celite filter-aid and washed through with diethyl ether. The organic phase was washed with saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride. The organic phase was dried over magnesium sulfate and evaporated to a red/black liquid and then chromatographed on silica gel using hexane/ethyl acetate (3:1) as eluent to give 3.1 g of ethyl 2-aminothiophene-3-acetate. MS(ES): m/e 186 [M+H].

reactant | Ethyl 2-nitrothiophene-3-acetate | 18.6 mmol, 4 g | [N+](=O)([O-])C=1SC=CC1CC(=O)OCC | C8H9NO4S
solvent | dioxan | 40 ml | O1CCOCC1 | C4H8O2
catalyst | iron sulfate heptahydrate | 1.44 mmol, 400 mg | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
product | ethyl 2-aminothiophene-3-acetate | 3.1 g | NC=1SC=CC1CC(=O)OCC | C8H11NO2S
